US09422279B2
To a solution of ethyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,6-dihydro-2H-pyran-4-carboxylate (1.77 g, 5.81 mmol) and phenylboronic acid (1.42 g, 11.62 mmol) in dioxane (15 ml) was added Pd(dppf)Cl2 (430 mg, 0.58 mmol) and Na2CO3 (1.85 g, 17.46 mmol) in water (4.5 mL), the mixture was degassed with N2 for 5 min, and was heated at 100° C. for 15 h, after cooling to room temperature the mixture was diluted with EtOAc and washed with Sat. NaHCO3 and brine, organic layer was combined, dried and concentrated to give crude product, which was purified by column chromatography (Hexanes/EtOAc=4:1) to give ethyl 5-phenyl-3,6-dihydro-2H-pyran-4-carboxylate (1.05 g, 78%).

reactant | ethyl 5-(((trifluoromethyl)sulfonyl)oxy)-3,6-dihydro-2H-pyran-4-carboxylate | 5.81 mmol, 1.77 g | FC(S(=O)(=O)OC1=C(CCOC1)C(=O)OCC)(F)F | C9H11F3O6S
reactant | phenylboronic acid | 11.62 mmol, 1.42 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 17.46 mmol, 1.85 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 4.5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.58 mmol, 430 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 5-phenyl-3,6-dihydro-2H-pyran-4-carboxylate | 1.05 g, 78% | C1(=CC=CC=C1)C1=C(CCOC1)C(=O)OCC | C14H16O3
